US06211234B1
A stirred solution of 4-(2,4-dihydroxyphenyl)-4-oxobutyric acid, methyl ester 6.76 g) in methyl ethyl ketone (150 mL) is treated with potassium carbonate (4.17 g), potassium iodide (5 g) tetrabutyl ammonium chloride (1 g) and 3-chloromethylthiophene (4 g), and refluxed for 24 hours. The reaction mixture is filtered, the filtrate is evaporated. The residue is dissolved in ethyl acetate, washed with water, dried, and evaporated. The residue is recrystallised from ethyl acetate/cyclohexane to give 4-(2-hydroxy-4-(thiophen-3-ylmethoxy)phenyl]-4-oxo-butyric acid, methyl ester (7.16 g), a pale cream solid, mp. 100-102° C.

reactant | 4-(2,4-dihydroxyphenyl)-4-oxobutyric acid, methyl ester | 6.76 g | OC1=C(C=CC(=C1)O)C(CCC(=O)OC)=O | C11H12O5
reactant | potassium carbonate | 4.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5 g | [I-].[K+]
reactant | 3-chloromethylthiophene | 4 g | ClCC1=CSC=C1 | C5H5ClS
solvent | methyl ethyl ketone | 150 mL | C(C)C(=O)C | C4H8O
product | 4-(2-hydroxy-4-(thiophen-3-ylmethoxy)phenyl]-4-oxo-butyric acid, methyl ester | 7.16 g | OC1=C(C=CC(=C1)OCC1=CSC=C1)C(CCC(=O)OC)=O | C16H16O5S
